US08580781B2
3. Preparation of 3-{1-[3-(5-hydroxypyrimidin-2-yl)benzyl]-6-oxo-1,6-dihydropyridazin-3-yl}benzonitrile (“A263”)
50.46 g of 3-(6-oxo-1-{3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrimidin-2-yl]benzyl}-1,6-dihydropyridazin-3-yl)benzonitrile (102.7 mmol) and 33.81 g of sodium perborate tetrahydrate (339 mmol) are mixed in a mixture of 220 ml of THF and 220 ml of water in a 1000 ml one-necked flask and stirred at room temperature for 2 h, during which a pale precipitate deposits. The reaction mixture is diluted with 800 ml of dichloromethane, shaken with 500 ml of saturated aqueous ammonium chloride solution, dried over sodium sulfate and evaporated to dryness in a rotary evaporator. The residue is slurried in methanol, filtered off with suction and washed with diethyl ether, m.p. 245-8° C.

reactant | 3-(6-oxo-1-{3-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrimidin-2-yl]benzyl}-1,6-dihydropyridazin-3-yl)benzonitrile | 102.7 mmol, 50.46 g | O=C1C=CC(=NN1CC1=CC(=CC=C1)C1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C)C=1C=C(C#N)C=CC1 | C28H26BN5O3
reactant | sodium perborate tetrahydrate | 339 mmol, 33.81 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | THF | 220 ml | C1CCOC1 | C4H8O
solvent | water | 220 ml | O | H2O
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 3-{1-[3-(5-hydroxypyrimidin-2-yl)benzyl]-6-oxo-1,6-dihydropyridazin-3-yl}benzonitrile | OC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C=2C=C(C#N)C=CC2)C=CC1 | C22H15N5O2
